US04816452
a. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cyclohexylmethoxyimino)acetate
Ethyl (Z)-2-(hydroxyimino)-2-(2-tritylaminothiazol-4-yl)acetate hydrochloride (3.08 g) was reacted with cyclohexylmethyl bromide as described in Example 5a. The product was deprotected with formic acid as described in Example 1a. Crystallisation from cyclohexane/hexane gave the title compound as a white solid (1.2 g, 62%), m.p. 107.0°-107.5° C. [Found: C: 54.21; H: 6.58; N: 13.31. C14H21N3O3S requires C: 54.00; H: 6.80; N: 13.49%]. νmax (CHCl3) 3400, 2920, 1730, 1600 cm-1 ; δH (CDCl3) 1.0 (2H, m), 1.2 (3H, m), 1.33 (3H, t), 1.7 (6H, m), 3.97 (2H, d), 4.35 (2H, q), 5.60 (2H, br s, exch. D2O), 6.63 (1H, s).

reactant | Ethyl (Z)-2-(hydroxyimino)-2-(2-tritylaminothiazol-4-yl)acetate hydrochloride | 3.08 g | Cl.O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | cyclohexylmethyl bromide | C1(CCCCC1)CBr | C7H13Br
solvent | formic acid | C(=O)O | CH2O2
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cyclohexylmethoxyimino)acetate | 1.2 g, 62% | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCC1CCCCC1 | C14H21N3O3S
